US06951875B2
b) (4-Amino-6-bromo-pyridin-2-yl)-methanol
A solution of 6-bromo-4-nitro-pyridine-2-carboxylic acid (6.60 g, 29.1 mmol) in THF (150 ml) was treated with borane/THF (87 ml of a 1M solution). The mixture was refluxed for 6 hr, then powdered iron (16.3 g, 291 mmol) was added, followed by acetic acid ( 150 ml). Reflux was maintained for 6 hr, the mixture was filtered, evaporated and partitioned (AcOEt/aqueous NaHCO3-solution). The organic phase was dried (Na2SO4), concentrated and chromatographed (SiO2 with CH2Cl/MeOH=93/7) to provide 2.0 g (34%) of the title compound as a white solid material. Mp. 144-145° C. (AcOEt), MS: m/e=202 (M+).

reactant | 6-bromo-4-nitro-pyridine-2-carboxylic acid | 29.1 mmol, 6.60 g | BrC1=CC(=CC(=N1)C(=O)O)[N+](=O)[O-] | C6H3BrN2O4
reactant | borane THF | B.C1CCOC1
reactant | acetic acid | 150 ml | C(C)(=O)O | C2H4O2
solvent | THF | 150 ml | C1CCOC1 | C4H8O
catalyst | iron | 291 mmol, 16.3 g | [Fe] | Fe
product | (4-Amino-6-bromo-pyridin-2-yl)-methanol | 2.0 g, 34% | NC1=CC(=NC(=C1)Br)CO | C6H7BrN2O
